US05679623
Example H5: 1-Amino-2,3-dihydro-3-methyl-2-oxo-4-tert-butyl-1H-imidazole (compound no. 9.2A in table 2).
75 ml of aqueous methylamine solution (40%) are added to a solution of 12.6 g of 2,3-dihydro-2-oxo-3-tert-butylcarbonylmethyl-5-trifluoromethyl-1,3,4-oxadiazole in 50 ml of acetonitrile. After the slightly exothermal reaction has subsided, the reaction mixture is stirred for 2 hours at room temperature and then for 14 hours at 80° and then evaporated the liquid residue is treated with ice-water, and the aqueous mixture is extracted three times by shaking with ethyl acetate. The combined ethyl acetate phases are dried and evaporated, and the oily orange residue is recrystallized from hexane. This gives the title compound in the form of pale yellow crystals which melt at 100°-105°.

reactant | methylamine | 75 ml | CN | CH5N
reactant | 2,3-dihydro-2-oxo-3-tert-butylcarbonylmethyl-5-trifluoromethyl-1,3,4-oxadiazole | 12.6 g | O=C1OC(=NN1CC(=O)C(C)(C)C)C(F)(F)F | C9H11F3N2O3
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-Amino-2,3-dihydro-3-methyl-2-oxo-4-tert-butyl-1H-imidazole | NN1C(N(C(=C1)C(C)(C)C)C)=O | C8H15N3O
